US08957215B2
Tert-butyl 4-[5-(6-Methoxy-1,3-benzothiazol-2-yl)pyridin-2-yl]piperazine-1-carboxylate was prepared according to the method used for the preparation of 2-[6-[4-[(1,1-dimethylethoxy)carbonyl]-1-piperazinyl]-3-pyridinyl]-6-benzothiazolecarboxylic acid ethyl ester, from 2-bromo-6-methoxybenzothiazole (Yang et al. J. Biological Chem. 1989, 2, 891-898) (0.20 g), and obtained as a solid (0.23 g). 1H NMR δ 8.74 (s, 1 H) 8.12 (d, 1 H) 7.87 (d, 1 H) 7.67 (s, 1 H) 7.09 (dd, 1 H) 6.98 (d, 1 H) 3.84 (s, 3 H) 3.64 (br. s., 4 H) 3.45 (br. s., 4 H) 1.43 (s, 9 H); MS m/z M-1-H 427.

reactant | 2-[6-[4-[(1,1-dimethylethoxy)carbonyl]-1-piperazinyl]-3-pyridinyl]-6-benzothiazolecarboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(N=C(S2)C=2C=NC(=CC2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C24H28N4O4S
reactant | 2-bromo-6-methoxybenzothiazole | 0.20 g | BrC=1SC2=C(N1)C=CC(=C2)OC | C8H6BrNOS
product | Tert-butyl 4-[5-(6-Methoxy-1,3-benzothiazol-2-yl)pyridin-2-yl]piperazine-1-carboxylate | COC1=CC2=C(N=C(S2)C=2C=CC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C22H26N4O3S
